US05290927
Br--AcO--HxR, 415 mg (1.0 mmol), was dissolved in 30 ml of methanol containing 0.24 ml of triethylamine and 170 mg of 10% palladium carbon was added to the solution. While stirring the mixture at room temperature, hydrogen gas was passed in a flow rate of 40 ml/min. After the palladium carbon was filtered off, the filtrate was washed with ethanol and the solvent was distilled off under reduced pressure. The residue was dissolved in 8 ml of methanol and 0.54 ml of 28% sodium methoxide (methanolic solution) was added to the solution. The mixture was stirred at room temperature for 30 minutes. The reaction solution was quantitatively determined by HPLC, where 63.7 mg (0.27 mmoles) of 2',3'-dideoxyinosine and 93.2 mg (0.37 mmoles) of 3'-deoxyinosine were produced in yields of 7% and 37%, respectively. 300 MHz nuclear magnetic resonance spectra of the purified and isolated 2',3'-dideoxyinosine and 3'-deoxyinosine supported the structures of the products.

reactant | hydrogen | [H][H] | H2
reactant | 2',3'-dideoxyinosine | 0.27 mmoles, 63.7 mg | [C@@H]1(CC[C@@H](CO)O1)N1C=NC=2C(O)=NC=NC12 | C10H12N4O3
reactant | methanol | 30 ml | CO | CH4O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
catalyst | palladium carbon | 170 mg | [C].[Pd]
product | 3'-deoxyinosine | 0.37 mmoles, 93.2 mg | [C@@H]1([C@H](O)C[C@@H](CO)O1)N1C=NC=2C(O)=NC=NC12 | C10H12N4O4
